US09056858B2
Synthesis of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(6-methanesulfonyl-pyridin-3-yl)-cyclopropyl]-amide (18)
A solution of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(6-bromo-pyridin-3-yl)-cyclopropyl]-amide (72.7 mg, 0.161 mmol), sodium methanesulfinate (32.8 mg, 0.321 mmol) and copper (I) iodine (61.2 mg, 0.321 mmol) in DMSO (1 mL) is evacuated and purged with argon three times and heated at 130° C. After 45 minutes, the reaction is cooled to room temperature and N,N′-dimethylethylenediamine (69 μL, 0.64 mmol) is added. The mixture is stirred for 30 minutes, diluted with ethyl acetate (20 mL) and stirred for 15 minutes. A saturated aqueous solution of ammonium chloride (20 mL) is added; the resulting mixture is sonicated for 30 minutes, and diluted with ethyl acetate (100 mL). Phases are separated and the aqueous layer is extracted with ethyl acetate (3×20 mL). The combined organic layers are washed with saturated aqueous ammonium chloride (2×50 mL), saturated aqueous sodium bicarbonate (50 mL), brine (50 mL), dried over MgSO4, filtered and concentrated. The resulting residue is purified by silica gel chromatography eluting with a gradient of 0-8% methanol in methylene chloride to afford the title compound as a solid.

reactant | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(6-bromo-pyridin-3-yl)-cyclopropyl]-amide | 0.161 mmol, 72.7 mg | BrC1=CC=C(C=N1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F | C21H15BrFN5O
reactant | sodium methanesulfinate | 0.321 mmol, 32.8 mg | CS(=O)[O-].[Na+]
reactant | N,N′-dimethylethylenediamine | 0.64 mmol, 69 μL | CNCCNC | C4H12N2
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodine | 0.321 mmol, 61.2 mg | [I+].[Cu+]
product | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(6-methanesulfonyl-pyridin-3-yl)-cyclopropyl]-amide | CS(=O)(=O)C1=CC=C(C=N1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F | C22H18FN5O3S
